US07750003B2
Phenyl N-[4-[4-[(3S)-3-methylmorpholin-4-yl]-6-(2-propan-2-ylsulfonylpropan-2-yl)pyrimidin-2-yl]phenyl]carbamate
Phenyl chloroformate (0.42 mL, 3.34 mmol) was added dropwise to 4-[4-[(3S)-3-methylmorpholin-4-yl]-6-(2-propan-2-ylsulfonylpropan-2-yl)pyrimidin-2-yl]aniline (1.4 g, 3.34 mmol) and sodium carbonate (0.421 g, 5.02 mmol) in dioxane (20 mL) under nitrogen. The resulting suspension was stirred at RT for 2 hours. The reaction mixture was evaporated to dryness and redissolved in DCM (50 mL) and washed with water (50 mL). The organic layer was dried (MgSO4), filtered and evaporated to give crude product which was triturated with diethyl ether to give the desired product (1.57 g).

reactant | Phenyl chloroformate | 3.34 mmol, 0.42 mL | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | 4-[4-[(3S)-3-methylmorpholin-4-yl]-6-(2-propan-2-ylsulfonylpropan-2-yl)pyrimidin-2-yl]aniline | 3.34 mmol, 1.4 g | C[C@@H]1N(CCOC1)C1=NC(=NC(=C1)C(C)(C)S(=O)(=O)C(C)C)C1=CC=C(N)C=C1 | C21H30N4O3S
reactant | sodium carbonate | 5.02 mmol, 0.421 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | Phenyl N-[4-[4-[(3S)-3-methylmorpholin-4-yl]-6-(2-propan-2-ylsulfonylpropan-2-yl)pyrimidin-2-yl]phenyl]carbamate | 1.57 g | C[C@@H]1N(CCOC1)C1=NC(=NC(=C1)C(C)(C)S(=O)(=O)C(C)C)C1=CC=C(C=C1)NC(OC1=CC=CC=C1)=O | C28H34N4O5S
